US04607033
N-Methyl-2-(4-[2-(2-[3-Chlorophenyl]morpholino)propyl]phenoxy)ethanamine dihydrochloride hemihydrate
To a stirred solution of 4[2-(2-[3-chlorophenyl]morpholino)propyl]phenoxy-N-methylacetamide (3.6 g) in dry tetrahydrofuran (80 ml) was added borane-methyl sulphide complex (10 ml) in dry tetrahydrofuran (20 ml), under nitrogen. The solution was boiled under reflux for 4 hours, and, after cooling to room temperature, methanol (30 ml) was added carefully. This solution was allowed to stand overnight at room temperature, hydrogen chloride gas passed through for 10 mins, boiled under reflux for one hour, cooled and evaporated to dryness. Aqueous sodium carbonate was added to the residue and extracted with dichloromethane (×2). The combined organic extracts were washed with brine (×2), dried over magnesium sulphate, filtered and evaporated to dryness. Ethereal hydrogen chloride was added to the residue and the resultant solid recrystallised from methanol-ethyl acetate to give the title compound, m.p. 145°-55° C.

reactant | 4[2-(2-[3-chlorophenyl]morpholino)propyl]phenoxy-N-methylacetamide | 3.6 g | ClC=1C=C(C=CC1)C1OCCN(C1)C(CC1=CC=C(OCC(=O)NC)C=C1)C | C22H27ClN2O3
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-Methyl-2-(4-[2-(2-[3-Chlorophenyl]morpholino)propyl]phenoxy)ethanamine dihydrochloride hemihydrate | O.Cl.Cl.CNCCOC1=CC=C(C=C1)CC(C)N1CC(OCC1)C1=CC(=CC=C1)Cl.CNCCOC1=CC=C(C=C1)CC(C)N1CC(OCC1)C1=CC(=CC=C1)Cl.Cl.Cl | InChI=1S/2C22H29ClN2O2.4ClH.H2O/c2*1-17(14-18-6-8-21(9-7-18)26-12-10-24-2)25-11-13-27-22(16-25)19-4-3-5-20(23)15-19;;;;;/h2*3-9,15,17,22,24H,10-14,16H2,1-2H3;4*1H;1H2
